US08217570B2
(1-g) Synthesis of 9,10-diphenyl-2-(6-phenylpyridine-2-yl)anthracene (compound 1)
2-Bromo-6-phenylpyridine 2.5 g (11 mmol), 9,10-diphenylanthracene-2-boronic acid 4.9 g (13 mmol) and tetrakis(triphenylphosphine)palladium 0.25 g (0.22 mmol) were dissolved in 60 mL of 12-dimethoxyethane. A 2.0M sodium carbonate aqueous solution 30 mL was added thereto, and the solution was refluxed for 8 hours under argon atmosphere by heating. After finishing the reaction, the solution was filtered, and a solid matter obtained was washed with water, methanol and toluene to obtain 4.5 g (yield: 84%) of a greenish white solid matter. Mass spectral analysis of the above solid matter resulted in confirming that the measured value m/e was 483 versus a molecular weight of 483.20 and that it was the aimed compound 1

reactant | 2-Bromo-6-phenylpyridine | 11 mmol, 2.5 g | BrC1=NC(=CC=C1)C1=CC=CC=C1 | C11H8BrN
reactant | 9,10-diphenylanthracene-2-boronic acid | 13 mmol, 4.9 g | C1(=CC=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC(=CC12)B(O)O)C1=CC=CC=C1 | C26H19BO2
catalyst | tetrakis(triphenylphosphine)palladium | 0.22 mmol, 0.25 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | sodium carbonate | 2.0M, 30 mL | C([O-])([O-])=O.[Na+].[Na+]
product | 9,10-diphenyl-2-(6-phenylpyridine-2-yl)anthracene | 4.5 g, yield: 84% | C1(=CC=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC(=CC12)C1=NC(=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C37H25N
